US06936602B1
In toluene/ethanol/water (=10/1/1, 41 ml) was dissolved methyl 7-bromo-1-isobutyl-2,3-dihydro-1-benzazepine-4-carboxylate (0.90 g). To the solution were added 4-(2-propoxyethoxy)phenyl borate (0.72 g) and potassium carbonate (0.81 g) and the mixture was stirred for 30 minutes under argon atmosphere. To the mixture was added tetrakistriphenylphosphinepalladium (123 mg) and the mixture was heated to reflux for 14 hours. After cooling to room temperature, the solution was added to water, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried with magnesium sulfate. The solvent was removed under reduced pressure, and the resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=8/1) to give methyl 1-isobutyl-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate (0.79 g).

reactant | methyl 7-bromo-1-isobutyl-2,3-dihydro-1-benzazepine-4-carboxylate | 0.90 g | BrC=1C=CC2=C(C=C(CCN2CC(C)C)C(=O)OC)C1 | C16H20BrNO2
reactant | 4-(2-propoxyethoxy)phenyl borate | 0.72 g | B(OC1=CC=C(C=C1)OCCOCCC)([O-])[O-]
reactant | potassium carbonate | 0.81 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | toluene ethanol water | 41 ml | C1(=CC=CC=C1)C.C(C)O.O
catalyst | tetrakistriphenylphosphinepalladium | 123 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 1-isobutyl-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1-benzazepine-4-carboxylate | 0.79 g | C(C(C)C)N1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C27H35NO4
